US07728025B2
(Step 2) Production of 4-(2-cyano-6-fluoro-phenoxy)-6-(6-ethanesulfonyl-pyridin-3-yloxy)-2-pyridin-2-yl-1H-benzimidazole
The entitled compound was obtained in the same method as in Example 251 (step 2) or in accordance with the method or by combining it with an ordinary method but using 4-hydroxy-6-(6-ethanesulfonyl-pyridin-3-yloxy)-2-pyridin-2-yl-1H-benzimidazole and 2,3-difluorobenzonitrile.

reactant | 4-hydroxy-6-(6-ethanesulfonyl-pyridin-3-yloxy)-2-pyridin-2-yl-1H-benzimidazole | OC1=CC(=CC=2NC(=NC21)C2=NC=CC=C2)OC=2C=NC(=CC2)S(=O)(=O)CC | C19H16N4O4S
reactant | 2,3-difluorobenzonitrile | FC1=C(C#N)C=CC=C1F | C7H3F2N
product | 4-(2-cyano-6-fluoro-phenoxy)-6-(6-ethanesulfonyl-pyridin-3-yloxy)-2-pyridin-2-yl-1H-benzimidazole | C(#N)C1=C(OC2=CC(=CC=3NC(=NC32)C3=NC=CC=C3)OC=3C=NC(=CC3)S(=O)(=O)CC)C(=CC=C1)F | C26H18FN5O4S
